US07652053B2
This compound was prepared from the hydrochloride salt of 2-[1-(4-amino-cyclohexyl)-5-methyl-1H-benzoimidazol-2-yl]-propan-2-ol (prepared as cis/trans-isomer mixture) and (S)-2-formyl-indan-5-carbonitrile through the same reductive amination method described previously. The crude mixture was separated through flash column chromatography using methylene chloride and methanol (20:1 to 10:1). The fraction with less retention time (higher Rf) gave cis-(S)-2-({4-[2-(1-hydroxy-1-methyl-ethyl)-5-methyl-benzoimidazole-1-yl]-cyclohexylamino}-methyl)-indan-5-carbonitrile. The analysis of the 1H-NMR confirmed the cis-conformation of the cyclohexane. LC-MS showed a single peak, C28H34N4O (m/e) calcd 442.2733, obsd 443.3 (M+H). 1H-NMR (CD3OD) □ 7.82 (d, 1H), 7.55 (s, 1H), 7.49 (d, 1H), 7.41 (s, 1H), 7.38 (d, 1H), 7.03 (d, 1H), 5.30 (m, 1H), 3.23 (m, 2H), 2.71-2.93 (m, 8H), 2.43 (s, 3H), 1.98 (br d, 2H), 1.72 (s, 6H), 1.64 (m, 4H).

reactant | 2-[1-(4-amino-cyclohexyl)-5-methyl-1H-benzoimidazol-2-yl]-propan-2-ol | NC1CCC(CC1)N1C(=NC2=C1C=CC(=C2)C)C(C)(C)O | C17H25N3O
reactant | (S)-2-formyl-indan-5-carbonitrile | C(=O)[C@H]1CC2=CC=C(C=C2C1)C#N | C11H9NO
product | cis-(S)-2-({4-[2-(1-hydroxy-1-methyl-ethyl)-5-methyl-benzoimidazole-1-yl]-cyclohexylamino}-methyl)-indan-5-carbonitrile | OC(C)(C)C1=NC2=C(N1[C@H]1CC[C@H](CC1)NC[C@H]1CC3=CC=C(C=C3C1)C#N)C=CC(=C2)C | C28H34N4O
